data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)C1=NC=NN1C1=NC2=C(CCOC3=C2C=CC(Br)=C3)S1.CC1(C)OB(C2=CNN=C2)OC1(C)C.CCOC(C)=O.O.O=C([O-])[O-].[Na+].[Na+].[Pd:1]|(2, 1)",36,6,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)C1=NC=NN1C1=NC2=C(CCOC3=CC(Br)=CC=C32)S1.CC1(C)OB(C2=CNN=C2)OC1(C)C.CCOC(C)=O.O.O=C([O-])[O-].[Na+].[Na+]|(1, 2)",36,5,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)C1=NC=NN1C1=NC2=C(CCOC3=C[C:1]([Br:2])=CC=C32)S1.CC1(C)OB(C2=CNN=C2)OC1(C)C.CCOC(C)=O.O.O=C([O-])[O-].[Na+].[Na+]|(3, 1);((1, 2), 3)",36,4,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)C1=NC=NN1C1=NC2=C(CCOC3=C[C]([Pd-2:3]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[Br:4])=CC=C32)S1.CC1(C)OB(C2=CNN=C2)OC1(C)C.CCOC(C)=O.O.O=C([O-])[O-:1].[Na+:2].[Na+]|(1, 3);((3, 4), 2)",36,3,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)C1=NC=NN1C1=NC2=C(CCOC3=C[C]([Pd-2:2]([O]C(=O)[O-])([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)=CC=C32)S1.CC1(C)O[B:3]([C:1]2=CNN=C2)OC1(C)C.CCOC(C)=O.O.[Na+].[Na][Br]|(2, 1);((1, 3), 2)",36,2,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)C1=NC=NN1C1=NC2=C(CCOC3=C[C]([Pd-2:2]([C]4=CNN=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([B:1]4OC(C)(C)C(C)(C)O4)[O:3]C(=O)[O-])=CC=C32)S1.CCOC(C)=O.O.[Na+].[Na][Br]|((2, 3), 1);((1, 2), 2)",36,1,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC#N.CC(C)C1=NC=NN1C1=NC2=C(CCOC3=C[C:1]([Pd-2:2]([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)([P+](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[C:3]4=CNN=C4)=CC=C32)S1.CC1(C)OB(OC(=O)[O-])OC1(C)C.CCOC(C)=O.O.[Na+].[Na][Br]|((2, 1), 3);((3, 2), 2)",36,0,reaction_35,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC(C)(C)OC(=O)NC1=CC(Cl)=CC=N1.CC1(C)OB(C2=CC(F)=CC=C2O)OC1(C)C.CCOC(C)=O.O.O=C([O-])[O-].[Na+].[Na+].[Pd:1]|(2, 1)",16,6,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC(C)(C)OC(=O)NC1=CC(Cl)=CC=N1.CC1(C)OB(C2=CC(F)=CC=C2O)OC1(C)C.CCOC(C)=O.O.O=C([O-])[O-].[Na+].[Na+]|(1, 2)",16,5,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC(C)(C)OC(=O)NC1=C[C:2]([Cl:3])=CC=N1.CC1(C)OB(C2=CC(F)=CC=C2O)OC1(C)C.CCOC(C)=O.O.O=C([O-])[O-].[Na+].[Na+]|(1, 2);((2, 3), 1)",16,4,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC(C)(C)OC(=O)NC1=C[C]([Pd-2:1]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[Cl:2])=CC=N1.CC1(C)OB(C2=CC(F)=CC=C2O)OC1(C)C.CCOC(C)=O.O.O=C([O-])[O-:4].[Na+:3].[Na+]|(4, 1);((1, 2), 3)",16,3,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC(C)(C)OC(=O)NC1=C[C]([Pd-2:1]([O]C(=O)[O-])([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=CC=N1.CC1(C)O[B:2]([C:3]2=CC(F)=CC=C2O)OC1(C)C.CCOC(C)=O.O.[Na+].[Na][Cl]|(1, 3);((3, 2), 1)",16,2,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC(C)(C)OC(=O)NC1=C[C]([Pd-2:1]([C]2=CC(F)=CC=C2O)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([O:2]C(=O)[O-])[B:3]2OC(C)(C)C(C)(C)O2)=CC=N1.CCOC(C)=O.O.[Na+].[Na][Cl]|((1, 2), 3);((3, 1), 1)",16,1,reaction_17,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CC(C)(C)OC(=O)NC1=C[C:3]([Pd-2:1]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:2]2=CC(F)=CC=C2O)=CC=N1.CC1(C)OB(OC(=O)[O-])OC1(C)C.CCOC(C)=O.O.[Na+].[Na][Cl]|((1, 2), 3);((3, 1), 1)",16,0,reaction_17,USPTO_suzuki,train
